US08791134B2
1-Methyl-4-nitrosopiperidin-4-yl 2,4-difluorobenzoate was prepared from 1-methyl-piperidin-4-one oxime, lead tetraacetate and 2,4-difluorobenzoic acid using conditions of General Method 3. 1H NMR (400 MHz, chloroform-d) δ 7.59 (2H, dd, 7.5, 2.3 Hz), 7.09 (1H, tt, 8.6, 2.4 Hz), 2.98 (2H, dt, 11.7, 3.6 Hz), 2.32-2.50 (7H, m), 2.04 (2H, dd, 14.2, 2.7 Hz).

reactant | 1-methyl-piperidin-4-one oxime | CN1CCC(CC1)=NO | C6H12N2O
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 2,4-difluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
product | 1-Methyl-4-nitrosopiperidin-4-yl 2,4-difluorobenzoate | FC1=C(C(=O)OC2(CCN(CC2)C)N=O)C=CC(=C1)F | C13H14F2N2O3
